US08349846B2
3-Bromo-2-{(E)-2-[2-(cyclopropylmethoxy)-3-methoxyphenyl]vinyl}-4H-pyrido[1,2-a]pyrimidin-4-one
The title compound was prepared from 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (1.0 g, 4.181 mmol) and 2-(cyclopropylmethoxy)-3-methoxybenzaldehyde (1.29 g, 6.255 mmol) in the presence of sodium ethoxide (0.56 g, 8.361 mmol) in absolute ethanol (30 ml) as described in Intermediate 1 to give 424 mg of the product as a light yellow solid; 1H NMR (300 MHz, CDCl3) δ 0.35-0.40 (m, 2H), 0.60-0.79 (m, 2H), 1.30-1.40 (m, 1H), 3.82-3.90 (m, 5H), 6.90 (d, J=7.8 Hz, 1H), 7.04-7.12 (m, 2H), 7.33 (d, J=7.8 Hz, 1H), 7.62-7.72 (m, 3H), 8.48 (d, J=15.6 Hz, 1H), 8.95 (d, J=7.5 Hz, 1H).

reactant | 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 4.181 mmol, 1.0 g | BrC1=C(N=C2N(C1=O)C=CC=C2)C | C9H7BrN2O
reactant | 2-(cyclopropylmethoxy)-3-methoxybenzaldehyde | 6.255 mmol, 1.29 g | C1(CC1)COC1=C(C=O)C=CC=C1OC | C12H14O3
reactant | sodium ethoxide | 8.361 mmol, 0.56 g | [O-]CC.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-Bromo-2-{(E)-2-[2-(cyclopropylmethoxy)-3-methoxyphenyl]vinyl}-4H-pyrido[1,2-a]pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C=CC=C2)\C=C\C2=C(C(=CC=C2)OC)OCC2CC2 | C21H19BrN2O3
